US09102669B2
1-(1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)-6-(trifluoromethyl)indoline (Compound #60)
The title compound was prepared following the procedure as described in Example 5, STEP 4, reacting 6-trifluoromethylindoline and 1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-one.

reactant | 6-trifluoromethylindoline | FC(C1=CC=C2CCNC2=C1)(F)F | C9H8F3N
reactant | 1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-one | CN1N=CC(=C1)C1=CC=C(N=N1)N1CCC(CC1)=O | C13H15N5O
product | 1-(1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)-6-(trifluoromethyl)indoline | CN1N=CC(=C1)C1=CC=C(N=N1)N1CCC(CC1)N1CCC2=CC=C(C=C12)C(F)(F)F | C22H23F3N6
